US05633379
6.3 g (16.12 mmol) of 4-chloro-N-(4-phenylbutylthio)acetyl-anthranilic acid methyl ester are placed in 60 ml of tetrahydrofuran at 0°, and 48.3 ml of a 1-molar solution of sodium bis-trimethylsilylamide are added dropwise thereto. The mixture is then stirred for 30 minutes at room temperature. The reaction mixture is poured into 200 ml of 2N hydrochloric acid/ice and the resulting white suspension is filtered with suction and the colourless crystals are dried under a high vacuum at 60°. 7-chloro-3-(4-phenylbutylthio)-4-hydroxy-2(1H)-quinolone is obtained in the form of colourless crystals having a melting point of 176°.

reactant | 4-chloro-N-(4-phenylbutylthio)acetyl-anthranilic acid methyl ester | 16.12 mmol, 6.3 g | COC(C=1C(NC(CSCCCCC2=CC=CC=C2)=O)=CC(=CC1)Cl)=O | C20H22ClNO3S
reactant | sodium bis-trimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 7-chloro-3-(4-phenylbutylthio)-4-hydroxy-2(1H)-quinolone | ClC1=CC=C2C(=C(C(NC2=C1)=O)SCCCCC1=CC=CC=C1)O | C19H18ClNO2S
